US08404740B2
3-(2-Hydroxy-ethyl)-1H-indole (F-3)
LiAlH4 (1.99 g, 52.3 mmol) was placed in abs. THF (60 ml), under argon, and (5-hydroxy-1H-indol-3-yl)-acetic acid (5.00 g, 26.2 mmol) in abs. THF (100 ml) was added in the course of 30 min. The mixture was boiled for 3 h under reflux. For working up, THF (10 ml) and H2O (4 ml) were added to the mixture, while cooling with ice, and stirring was carried out for 30 min. The mixture was filtered over Celite and rinsed with dichloromethane (150 ml), and the filtrate was concentrated in vacuo.

reactant | LiAlH4 | 52.3 mmol, 1.99 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | (5-hydroxy-1H-indol-3-yl)-acetic acid | 26.2 mmol, 5.00 g | OC=1C=C2C(=CNC2=CC1)CC(=O)O | C10H9NO3
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | H2O | 4 ml | O | H2O
product | 3-(2-Hydroxy-ethyl)-1H-indole | OCCC1=CNC2=CC=CC=C12 | C10H11NO
